US08247401B2
Step E: tert-Butyl 3-(5-cyclopropyl-4-methyl-4H-1,2,4-triazol-3-yl)-5-(5-methylpyridin-2-yl)benzoate
To a solution of tert-butyl 3-[(methylamino)carbonothioyl]-5-(5-methylpyridin-2-yl)benzoate (0.56 g, 1.64 mmol) in tetrahydrofuran (15 mL) were added cyclopropanecarbohydrazide (0.49 g, 4.92 mmol) and mercury(II) acetate (1.05 g, 3.28 mmol). The reaction mixture was heated to 40° C. After 18 h, the mixture was cooled to ambient temperature. The mixture was filtered and the filtrate was concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound. MS 391.1 (M+1).

reactant | tert-butyl 3-[(methylamino)carbonothioyl]-5-(5-methylpyridin-2-yl)benzoate | 1.64 mmol, 0.56 g | CNC(=S)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C | C19H22N2O2S
reactant | cyclopropanecarbohydrazide | 4.92 mmol, 0.49 g | C1(CC1)C(=O)NN | C4H8N2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | mercury(II) acetate | 3.28 mmol, 1.05 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | tert-Butyl 3-(5-cyclopropyl-4-methyl-4H-1,2,4-triazol-3-yl)-5-(5-methylpyridin-2-yl)benzoate | C1(CC1)C=1N(C(=NN1)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C)C | C23H26N4O2
